US08497281B2
Step 1: cis-7-methanesulfonylamino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridine-1-carboxylic acid tert-butyl ester
Methylsulfonyl chloride (42 μL) is added to a solution of cis-7-amino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridine-1-carboxylic acid tert-butyl ester (160 mg) and triethylamine (76 μL) in dichloromethane (3 mL) at room temperature. The solution is stirred for 1 h at room temperature and then aqueous NaHCO3 solution is added. The mixture is stirred vigorously for 20 min and then extracted with dichloromethane. The combined extract is concentrated and the residue is chromatographed (cyclohexane/ethyl acetate 7:3→1:9) to give the title compound. Yield: 120 mg (59% of theory); LC (method 1): tR=3.80 min; Mass spectrum (ESI+): m/z=365 [M−H]+.

reactant | Methylsulfonyl chloride | 42 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | cis-7-amino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridine-1-carboxylic acid tert-butyl ester | 160 mg | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](CCC1)C=1C=CC(=CC1C2)N | C17H24N2O2
reactant | triethylamine | 76 μL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | cis-7-methanesulfonylamino-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2[C@H](CCC1)C=1C=CC(=CC1C2)NS(=O)(=O)C | C18H26N2O4S
